US03939267
The mixture of 2.5 g of 4-(4-acetamido-3-tolyloxy)-3-benzylamino-5-sulfamoylbenzoic acid and 25 ml of 2N aqueous sodium hydroxide is refluxed for seven hours under nitrogen. After cooling it is filtered, the filtrate acidified to a pH of 4-5 with glacial acetic acid, the precipitate formed filtered off, washed with water and recrystallized from 50% aqueous ethanol, to yield the 4-(4-amino-3-tolyloxy)-3-benzylamino-5-sulfamoylbenzoic acid of the formula ##SPC13##

reactant | 4-(4-acetamido-3-tolyloxy)-3-benzylamino-5-sulfamoylbenzoic acid | 2.5 g | C(C)(=O)NC1=C(C=C(C=C1)C)OC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1=CC=CC=C1 | C23H23N3O6S
reactant | sodium hydroxide | 2N, 25 ml | [OH-].[Na+]
product | 4-(4-amino-3-tolyloxy)-3-benzylamino-5-sulfamoylbenzoic acid | NC1=C(C=C(C=C1)C)OC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)NCC1=CC=CC=C1 | C21H21N3O5S
